US05789595
3.51 g of 2-(2-(ethoxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline was dissolved in 100 ml of ethanol, and 13.0 ml of 2N aqueous solution of sodium hydroxide was added to the solution. The solution was stirred overnight at room temperature. Dilute hydrochloric acid was added dropwise to the resulting solution to acidify the solution, and the solution was concentrated under reduced pressure, and dissolved in anhydrous ethanol. The insoluble content was separated by filtration, and the solvent was distilled off to obtain crude crystals of 2-(2-carboxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline. The crystals, with no further purification, were dissolved in 20 ml of DMF, and the solution was neutralized by adding 1.8 ml of triethylamine. To this solution were added 1.93 g of benzylalcohol, 3.42 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide, and 1.93 g of 1-hydroxybenzotriazol, and the solution was stirred overnight at room temperature. The resulting solution was extracted with ethyl acetate, washed with water, saturated aqueous solution of sodium bicarbonate, and saturated aqueous solution of sodium chloride, and dried with anhydrous sodium sulfate. After separating the desiccant by filtration, the filtrate was purified by silica gel column chromatography to obtain 1.60 g of 2-(2-benzyloxycarbonylethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline, which was an oily product (yield: 49%).

reactant | 2-(2-(ethoxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 3.51 g | C(C)OC(=O)CCN1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C14H18N2O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-carboxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | C(=O)(O)CCN1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C12H14N2O4
